US06743789B2
4-(2,4-Dimethoxy-benzyl)-7-bromo-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione
A suspension of 6-bromo-2H-3,1-bezoxazine-2,4(1H)-dione (22.0 g, 91 mmol) containing (2,4-dimethoxy-benzylamino)-acetic acid (22.5 g, 100 mmol) in p-xylene (200 mL) was heated under reflux (150° C.) for 1 h. After cooling to room temperature the precipitate was filtered off and washed with p-xylene (100 ml). Yield: 33.5 g (91%) m/z 403/405 (M).

reactant | 6-bromo-2H-3,1-bezoxazine-2,4(1H)-dione | 91 mmol, 22.0 g | BrC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C8H4BrNO3
reactant | (2,4-dimethoxy-benzylamino)-acetic acid | 100 mmol, 22.5 g | COC1=C(CNCC(=O)O)C=CC(=C1)OC | C11H15NO4
solvent | p-xylene | 200 mL | CC=1C=CC(=CC1)C | C8H10
product | 4-(2,4-Dimethoxy-benzyl)-7-bromo-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | COC1=C(CN2CC(NC3=C(C2=O)C=C(C=C3)Br)=O)C=CC(=C1)OC | C18H17BrN2O4
